US07723329B2
1-(3-Chloro-benzyl)-7-(2-chloro-ethoxy)-5-fluoro-3-(naphthalene-1-sulfonyl)-1H-indazole
A mixture of 7-(2-chloro-ethoxy)-5-fluoro-3-(naphthalene-1-sulfonyl)-1H-indazole (0.9 g, 2.2 mmoles), 3-chlorobenzyl bromide (0.35 mL, 2.7 mmoles), and cesium carbonate (0.87 g, 2.7 mmoles) in DMF (5 mL) was stirred together in a round bottom flask at room temperature for 30 minutes. Reaction mixture was diluted with H2O, extracted with EtOAc, washed with water (2×), brine (1×), dried over Na2SO4, and concentrated under vacuum. The crude product was purified by HPLC using as eluent 30% EtOAc/hexane to afford the title compound as an off-white solid (0.85 g, 2 mmoles).

reactant | 7-(2-chloro-ethoxy)-5-fluoro-3-(naphthalene-1-sulfonyl)-1H-indazole | 2.2 mmoles, 0.9 g | ClCCOC=1C=C(C=C2C(=NNC12)S(=O)(=O)C1=CC=CC2=CC=CC=C12)F | C19H14ClFN2O3S
reactant | 3-chlorobenzyl bromide | 2.7 mmoles, 0.35 mL | ClC=1C=C(CBr)C=CC1 | C7H6BrCl
reactant | cesium carbonate | 2.7 mmoles, 0.87 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | 1-(3-Chloro-benzyl)-7-(2-chloro-ethoxy)-5-fluoro-3-(naphthalene-1-sulfonyl)-1H-indazole | 2 mmoles, 0.85 g | ClC=1C=C(CN2N=C(C3=CC(=CC(=C23)OCCCl)F)S(=O)(=O)C2=CC=CC3=CC=CC=C23)C=CC1 | C26H19Cl2FN2O3S
